US08110581B2
Step 1. (5S)-7-(5-aminopyridin-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of (5S)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one [90 mg, 0.0004 mol, this compound was prepared by using procedures analogous to those described for the synthesis of example 92, steps 1-3], 2-chloro-5-nitropyridine (69 mg, 0.00044 mol), and potassium carbonate (160 mg, 0.0012 mol) in N,N-dimethylformamide (2 mL, 0.02 mol) was stirred at 120° C. for 1.5 hours. After cooling the reaction mixture to ambient temperature, the solid was filtered off and the filtrate was concentrated in-vacuo to afford the desired product. LC-MS: 361.2 (M+H)+. The resulting residue was dissolved in methanol and to this solution was added 10% Pd on carbon and the reaction vessel was placed under a H2 (g) atmosphere and stirred at rt for 1.5 h. The catalyst was filtered off from the mixture and the filtrate was concentrated to afford the desired product in quantitative yield and was used in the next step without further purification. LC-MS: 331.2 (M+H)+.

reactant | (5S)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one | O1CCC(CC1)N1C([C@@]2(CC1)CNCCC2)=O | C13H22N2O2
reactant | 2-chloro-5-nitropyridine | 0.00044 mol, 69 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 0.0012 mol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 0.02 mol, 2 mL | CN(C=O)C | C3H7NO
product | (5S)-7-(5-aminopyridin-2-yl)-2-(tetrahydro-2H-pyran-4-yl)-2,7-diazaspiro[4.5]decan-1-one | NC=1C=CC(=NC1)N1C[C@@]2(CCN(C2=O)C2CCOCC2)CCC1 | C18H26N4O2
